reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C@:2]([O:3][H:12])([H:11])[C:4]([H:13])([H:14])[O:5][C@@:6]1([O:7][H:9])[H:15],87.5219984474971
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:14])[N:3]([H:11])[C:6](=[O:7])[C:5]([H:12])([H:13])[O:4]1)([H:8])([H:9])[H:10],60.925153695614604
[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[O:1]([C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],79.1548233273145
[C:1]([N:2](/[C:3]([O:4][C:6]([H:12])([H:13])[H:14])=[N:5]\[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10],54.44944610431649
[C:1](=[C:2]1[C:3]([H:8])([H:9])[C@@:4]1([C:5]#[N:6])[H:10])([H:7])[H:11]>>[C:1](#[C:2][C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7],89.87448387104887
[C:1]([N:2](/[C:3]([O:4][H:12])=[C:5](\[O:6][H:13])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],35.506605187914786
[C:1]([C:2](=[O:3])[H:9])([H:6])([H:7])[H:8].[C:4]=[N:5][H:10]>>[C:1]([C@@:2]([O:3][H:10])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],40.03702006082639
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:12].[C:2](=[O:3])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11],83.474720299241
[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:5]#[N:6])=[C:4]([H:10])[H:11])([H:7])([H:8])[H:9],85.9555743723056
[C:1]([C:2]([C@@:3]1([H:12])[C-:4]([H:14])[N+:5]1([C:6]([H:15])([H:16])[H:17])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[N:5]1[C:6]([H:15])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9],14.078095267832602
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])=[C:6]=[N:7][H:12])[H:11])([H:8])([H:9])[H:10],87.5332337882535
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7]>>[O:1]([C:2]([C:3]([C-:4]=[C:5]=[C+:6][H:12])([H:9])[H:10])([H:8])[H:11])[H:7],65.387245770319
[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:12].[C:2]1([C:5](=[O:6])[H:14])=[C:4]([H:13])[C:3]1([H:10])[H:11],120.27562250522
[C:1]([N:2]([C:3]1=[C+:7][C:6]([H:13])([H:14])[N:5]([H:12])[N-:4]1)[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],1.6738474228957898
[C:1]([C:2]1=[C:5]([H:14])[O:6][C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],59.07627320159313
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:11])[C:3]([H:12])([H:13])[N:4]1[H:14])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:15],115.805360140624
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[N+:1]([C:2]([O-:3])=[C:4]([H:10])[H:11])([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:8])[H:9],111.599054357103
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:10])[H:15])([H:7])([H:8])[H:9].[C:4](=[C:5]=[O:6])([H:14])[H:16],87.4530578344825
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5][C:7]([H:21])([H:22])[H:23])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([H:17])([H:18])([H:19])[H:20],92.4071809667648
[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:6]=[N:7][C@:4]([C:3]([H:12])([H:13])[H:15])([O:5][H:16])[H:14])[H:11])([H:8])([H:9])[H:10],96.78089530049448
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:7](=[C:6])[H:14])[H:11])([H:8])([H:9])[H:10],59.1838816155226
[C:1]([C:2]([C@:3]([N:4]=[O:5])([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[C:3](=[N:4]\[O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],62.31799266935171
[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1]1([H:7])[C-:2]=[O+:6][C:5]([H:10])([H:11])[C:4]([H:9])=[C:3]1[H:8],100.81580306867201
